US05789595
1.1 g of 2-(ethoxycarbonylmethyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline was dissolved in 20 ml of ethanol, and a catalytic amount of 10% palladium-carbon was added to the solution. The solution was stirred overnight in hydrogen atmosphere. The catalyst was separated by filtration and the solvent was distilled off under reduced pressure to obtain 0.88 g of 7-amino-2-(ethoxycarbonylmethyl)-1,2,3,4-tetrahydroisoquinoline, which was an oily product. This product with no further purification was dissolved in 10 ml of N,N-dimethylformamide (DMF), and 1.3 g of 1-(benzyloxy-carbonyl)-4-(carboxymethoxy)piperidine and 1.1 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide which have been separately synthesized were added to the solution. After adding water, the solution was extracted with ethyl acetate, washed with saturated aqueous solution of sodium hydrogencarbonate and saturated aqueous solution of sodium chloride in this order, and dried with anhydrous sodium sulfate. After separating the desiccant by filtration, the product was purified by silica gel column chromatography to obtain 1.7 g of 7-[1-(benzyloxycarbonyl)piperidine-4-yloxyacetylamino]-2-(ethoxycarbonylmethyl)-1,2,3,4-tetrahydroisoquinoline. (Yield: 90%, oily product).

reactant | 2-(ethoxycarbonylmethyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline | 1.1 g | C(C)OC(=O)CN1CC2=CC(=CC=C2CC1)[N+](=O)[O-] | C13H16N2O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | hydrogen | [H][H] | H2
catalyst | palladium-carbon | [C].[Pd]
product | 7-amino-2-(ethoxycarbonylmethyl)-1,2,3,4-tetrahydroisoquinoline | 0.88 g | NC1=CC=C2CCN(CC2=C1)CC(=O)OCC | C13H18N2O2
